Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Seizure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with past medical history of seizure disorder since ___ 
___ non compliant with Dilantin alcohol/polysubstance abuse, 
who presented from EMS
after a reported seizure.  

Patient reportedly had a witnessed tonic-clonic seizure lasting 
1 minute in a store. Reportedly found an empty vodka bottle on 
the patient. No head strike was endorsed by witnesses. BIBA to 
___.

Patient lethargic, but arousable and responsive to verbal 
stimuli in the ED. No obvious signs of trauma. Stable vital 
signs. Patient denied alcohol on the day of admission but drinks 
regularly. Stated that he has been using cocaine. Vehemently 
denies IVDA. 

Patient subsequently seized again in the ED around 5pm. He was 
loaded with phenobarbital and subsequently stabilized. 

In the ED, initial VS were:
96.4 75 144/76 19 98% RA 

Exam notable for: recurrent seizure 

Labs showed:
Chemistry wnl
stable wbc
LFTs wnl
Lactate 7.6->1.6
CK: 835

UA with trace protein and ketones

UTox:
Urine Cocaine Pos 
Urine Benzos, Barbs, Opiates, Amphet, Mthdne, Oxycodone Negative 

Serum Tox negative 

Imaging showed:
Chest (Pa & Lat) [2] -- Full Report
No acute cardiopulmonary process. 

CT Head W/O Contrast  [138] -- Full Report
1. No acute intracranial process. No calvarial fracture was
noted.
2. Soft tissue stranding over the left frontal region is
unchanged from prior head CT in ___, correlate clinically. 
 
Patient received:
___ 13:30 IVF  NS 1000 mL   
___ 18:07 IV LORazepam 2 mg ___  
___ 18:07 IV PHENObarbital - ICU Alcohol Withdrawal
(Initial Load / Rescue Dose) 650 mg 
___ 21:19 IVF  NS 1000 mL 
___ 01:43 IV Thiamine 100 mg 
___ 01:43 PO Multivitamins 1 TAB 
___ 01:43 PO Nicotine Polacrilex 2 mg 
___ 01:45 PO FoLIC Acid 1 mg  

On arrival to the floor, patient reported feeling lethargic.

REVIEW OF SYSTEMS:  
10 point ROS reviewed and negative except as per HPI.
 
Past Medical History:
Epilepsy (diagnosed after first seizures "around ___ grade"
Alcohol abuse
Polysubstance abuse
 
Social History:
___
Family History:
Believes he does have a family history of seizures, but can't 
remember whom. Mother living in ___, father in ___. 
Unaware of any other health issues. No siblings. Closest contact 
(proximity) is Aunt ___ (___).
 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
==================================
VS:  97.7 PO 121 / 81 82 18 96 RA 
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

PHYSICAL EXAMINATION ON DISCHARGE:
==================================
VS:  97.5 PO ___ 18 99 RA 
GENERAL: Dressed up and pacing around, he has a cigarette in the
mouth and wants to go smoke, awake and alert, answering 
questions
appropriately 
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
ABDOMEN: Non-distended, non-tender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes
 
Pertinent Results:
LABS ON ADMISSION:
==================
___ 11:00AM BLOOD WBC-9.4 RBC-4.48* Hgb-13.3* Hct-41.8 
MCV-93 MCH-29.7 MCHC-31.8* RDW-17.2* RDWSD-56.9* Plt ___
___ 11:00AM BLOOD Neuts-80.7* Lymphs-10.4* Monos-7.0 
Eos-1.2 Baso-0.4 Im ___ AbsNeut-7.62* AbsLymp-0.98* 
AbsMono-0.66 AbsEos-0.11 AbsBaso-0.04
___ 02:00PM BLOOD Glucose-73 UreaN-10 Creat-0.6 Na-135 
K-4.6 Cl-97 HCO3-24 AnGap-14
___ 02:00PM BLOOD ALT-20 AST-38 CK(CPK)-835* AlkPhos-87 
TotBili-0.2 DirBili-<0.2
___ 02:00PM BLOOD Albumin-4.2 Calcium-8.9 Phos-3.1 Mg-1.9
___ 02:00PM BLOOD TSH-0.74
___ 02:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 11:25AM BLOOD Lactate-7.6*

PERTINENT LABS:
===============
___ 05:29AM BLOOD calTIBC-333 VitB12-___* Hapto-46 
Ferritn-64 TRF-256
___ 05:29AM BLOOD Phenyto-1.2*

LABS ON DISCHARGE:
==================
Patient refused labs on the day of discharge.

MICRO:
======
___ 11:10 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 

___ 4:27 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH.

IMAGING:
========
___ CT head without contrast:
1. Motion limited exam without evidence for acute intracranial 
abnormalities 
or calvarial fracture. 
2. Persistent soft tissue abnormality in the left frontal scalp, 
in the same location as on ___ though slightly less 
extensive, possibly 
representing scarring.  However, other etiologies are not 
excluded, and 
correlation with physical exam is advised. 

___ CXR:
No acute cardiopulmonary process.
 
Brief Hospital Course:
___ year old male with past medical history of seizure disorder 
non compliant with Dilantin with recurrent seizures since ___, 
alcohol abuse with withdrawal seizures, polysubstance abuse, who 
presented with seizures s/p phenobarb loading.

# Seizure: Patient admitted that he is not compliant with his 
seizure medications, and his serum phenytoin level was low. He 
was started on his home Dilantin 100 mg TID. Neurology was 
consulted, and per their evaluation, the seizure could be due to 
his underlying seizure disorder or alcohol withdrawal. The plan 
was to get more records from ___ where he gets 
most of his care, monitor the phenytoin level, and adjust the 
dose of the medication as needed. Patient decided to leave the 
hospital against medical advice so no further adjustment of his 
Dilantin was done. He did not complete the phenobarb taper.

# Patient left AMA: He left on ___ because he said "his aunt 
needed his help". He understood and repeated the risks of 
leaving against medical advice, including the risks of seizures, 
respiratory compromise, brain injury, and death. He wanted to 
leave despite these risks. We emphasized the importance of close 
follow-up with his primary care provider or coming back to the 
Emergency Department. He did not complete the phenobarb taper.

# Polysubstance Abuse: He has a history of alcohol abuse (last 
drink on the day before admission) and cocaine abuse (urine tox 
positive). He was treated with thiamine 500mg IV for 3 days with 
a plan for 100mg PO after, folate 1mg, and multivitamins. Social 
work was consulted.

#Nicotine Dependence: Patient was provided with polacrilex 2mg 
q2h prn for cravings. He was caught smoking in the bathroom 
multiple times.

***TRANSITIONAL ISSUES:***
- Need close follow-up with his primary care provider and 
primary neurologist
- Need monitoring for recurrence of seizures and adjustment of 
his Dilantin dose as needed
- Counseling on drug and alcohol abstinence as well as smoking 
cessation

#CODE: Full (confirmed) 
#CONTACT: Aunt ___ (___)
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Phenytoin Sodium Extended 100 mg PO TID 

 
Discharge Medications:
1.  Phenytoin Sodium Extended 100 mg PO TID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Seizure

SECONDARY DIAGNOSES:
Alcohol abuse
Polysubstance abuse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were brought to the hospital because you had a seizure. We 
gave you medications to control and prevent seizures. The 
neurology team was involved in your care. The plan was to 
monitor you, obtain more records from your primary care 
provider, and adjust your home seizure medications.

You decided to leave the hospital to take care of your aunt. The 
team strongly recommended that you stay in the hospital. You 
acknowledged that you understand the risks of leaving against 
medical advice, including the risk of seizures, respiratory 
compromise, brain injury, and death. You wanted to leave against 
medical advice despite understanding these risks. Please make 
sure to have a close follow-up with your primary care provider 
or come back to the Emergency Department.

We wish you the best in health.

Your ___ team.
 
Followup Instructions:
___